US05820781
Step 2.1 2-pent-1-ynylthiophene.
Quantities: pent-1-yne (6.80 g, 0.10 mol), n-butyllithium (10.0 ml, 10.0M in hexane, 0.044 mol), zinc chloride (13.60 g, 0.10 mol), 2-bromothiophene (16.00 g, 0.098 mol), tetrakis (triphenylphosphine)palladium(O) (3.40 g 2.94 mol).

reactant | pent-1-yne | 0.10 mol, 6.80 g | C#CCCC | C5H8
reactant | n-butyllithium | 0.044 mol, 10.0M, 10.0 ml | C(CCC)[Li]
reactant | 2-bromothiophene | 0.098 mol, 16.00 g | BrC=1SC=CC1 | C4H3BrS
catalyst | zinc chloride | 0.10 mol, 13.60 g | [Cl-].[Zn+2].[Cl-]
product | 2-pent-1-ynylthiophene | C(#CCCC)C=1SC=CC1 | C9H10S
